US04208510
Preparation of Ethyl 2-[3-(2,4-Dichlorophenyl)-5-Isoxazolyl]Benzoate
A solution of 4 g. (0.011 mole) of 3'-(2,4-dichlorophenyl)-spiro[isobenzofuran-1(3H),5'(4'H)-isoxazol]-3-one, 2 ml. of concentrated H2SO4 and 200 ml. of ethanol was held at reflux for 19 hours, cooled, and poured into ice water. The resultant mixture was extracted twice with ether. The ethereal solution was washed twice with water, dried over CaSO4 and concentrated under vacuum to give an oil. The oil was dissolved in hot hexane to afford 4.2 g. of a crystalline solid (96.9%). Recrystallization of the solid from hexane gave 3.1 g. of pure product; m.p. 85°-86° C.

reactant | 3'-(2,4-dichlorophenyl)-spiro[isobenzofuran-1(3H),5'(4'H)-isoxazol]-3-one | 0.011 mole | ClC1=C(C=CC(=C1)Cl)C1=NOC2(C1)OC(C1=CC=CC=C12)=O | C16H9Cl2NO3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | ethanol | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
product | Ethyl 2-[3-(2,4-Dichlorophenyl)-5-Isoxazolyl]Benzoate | ClC1=C(C=CC(=C1)Cl)C1=NOC(=C1)C1=C(C(=O)OCC)C=CC=C1 | C18H13Cl2NO3
